US05958375
a. 3,5-Dinitroanisole
Sodium (575 mg, 25 mmol) was dissolved in absolute methanol (100 ml). 1,3,5-Trinitrobenzene (4.26 g, 20 mmol) was then added and the solution was stirred overnight. After evaporation of the solvent, water was added and the precipitate was filtered off, washed with water and dried. The material was used without purification in the next step. Yield: 3.4 g (86%).

reactant | Sodium | 25 mmol, 575 mg | [Na] | Na
reactant | 1,3,5-Trinitrobenzene | 20 mmol, 4.26 g | [N+](=O)([O-])C1=CC(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3N3O6
reactant | methanol | 100 ml | CO | CH4O
product | 3,5-Dinitroanisole | [N+](=O)([O-])C=1C=C(C=C(C1)[N+](=O)[O-])OC | C7H6N2O5
